US07659268B2
N-(6-Chloro-5-ethylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide (38 mg; 0.10 mmol) was dissolved in 1 mL of 1,2-dimethoxyethane (DME) in a microwave reactor tube. 4-(tert-butoxycarbonyl)phenyl-boronic acid (29 mg, 0.13 mmol), 0.1 mL of an aqueous 2 M potassium carbonate solution, and tetrakis(triphenylphospine)palladium(0) (Pd(PPh3)4, 5.6 mg, 0.0048 mmol) were added and the reaction mixture was heated at 120° C. in a microwave reactor for 20 minutes. The resulting material was cooled to room temperature, filtered, and the layers were separated. The organic layer was concentrated in vacuo to yield tert-butyl 4-(6-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-3-ethylpyridin-2-yl)benzoate which was used without further purification.

reactant | N-(6-Chloro-5-ethylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | 0.10 mmol, 38 mg | ClC1=C(C=CC(=N1)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)CC | C18H15ClF2N2O3
reactant | 4-(tert-butoxycarbonyl)phenyl-boronic acid | 0.13 mmol, 29 mg | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)B(O)O | C11H15BO4
reactant | potassium carbonate | 2 M | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 1 mL | COCCOC | C4H10O2
product | tert-butyl 4-(6-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-3-ethylpyridin-2-yl)benzoate | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=CC=C(C(=N2)C2=CC=C(C(=O)OC(C)(C)C)C=C2)CC)F | C29H28F2N2O5
